US05859010
c) 1-Benzyloxy-7-carboxyquinoxaline-2,3(1H,4H)-dione
7-Carboxy-1-hydroxyquinoxaline-2,3(1H,4H)-dione (2.22 g, 10 mmol) was dissolved in a mixture of 50 ml of 1M potassium dihydrogen phosphate buffer (pH 7.4) and 25 ml of ethanol by gently heating. To the cooled mixture was added 1.19 ml (10 mmol) of benzylbromide and the mixture was stirred overnight at room temperature. The precipitate was isolated by filtration and washed with ethanol. The crude product was triturated with 4M hydrochloric acid and washed with water and dried in vacuo to give 1.56 g (50%) of the title compound.1H-NMR (DMSO-d6): 5.22 (s, 2H, CH2), 7.2-7.9 (m, 8H, ArH), 12.35 (s, 1H, exchangeable), 13.05 (br.s, 1H, exchangeable).

reactant | 7-Carboxy-1-hydroxyquinoxaline-2,3(1H,4H)-dione | 10 mmol, 2.22 g | C(=O)(O)C1=CC=C2NC(C(N(C2=C1)O)=O)=O | C9H6N2O5
reactant | benzylbromide | 10 mmol, 1.19 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | potassium dihydrogen phosphate | 1M, 50 ml, pH 7.4 | P(=O)(O)(O)[O-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-Benzyloxy-7-carboxyquinoxaline-2,3(1H,4H)-dione | 1.56 g, 50% | C(C1=CC=CC=C1)ON1C(C(NC2=CC=C(C=C12)C(=O)O)=O)=O | C16H12N2O5
